### PR TITLE
arch-split Untyped_R

### PR DESCRIPTION
**Pull request by Xaphiosis**
🦆🦆🦆 Quite a bit of interface changes in previous theories, isolated in `adjust arch interfaces for Untyped_R arch-split`. It's big enough this time that I'm going to keep it as a commit. There's a design spec adjustment in `design: consistently handle canonicalAddressAssert` too. Again, please review commit-by-commit.

This was the least pleasant experience of arch-split so far. I have cleared out a number of outbursts of "YUCK", "blah", "who likes word proofs", amazing indentation and so on, but this is a large file clearly written by someone who was over it, and cleaning up everything would take ages and result in an even bigger diff. It was a ton of work, but nearly all of Untyped_R is generic now.

Cool discovery: on my machine, two architectures are now in the sub-10min Refine club:
- ARM: 9m40
- RISCV64: 9m02

**Instructions:**

In real life, I did the usual addition of Untyped_R, hierarchy update, arch-split and then update. However, since the arch-split part first splits AARCH64, then takes the AARCH64 version of Untyped_R and only fixes what broke, we ended up with a small(er) diff there (again).

Please review commit-by commit with the following notes (some inconsistency with squash/wip/fake comments on the PR-only commits):
- `design: consistently handle canonicalAddressAssert` : fixes facepalm definition
- `refine: adjust arch interfaces for Untyped_R arch-split` : quite a lot this time, in particular making `corres_caps_decomposition` generic
- `[squash] PR: copy AARCH64 version of ..._R` - same as last time: stop `..._R` looking like a wall of green (no need to review)
- `refine: arch-split `..._R (AARCH64 ONLY)` - this is the main bulk of the arch-split, dealing with AARCH64
- `[squash] copy AARCH64 Arch..._R to other arches` - wipes the *body* (not the header!) of other arches' Arch..._R with a copy of the AARCH64 version with `AARCH64` appropriately substituted - (mostly pointless to review)
- `[squash][fake] refine: arch-split ..._R (other arches) - result of fixing up the Arch..._R of other architectures - shows diff to AARCH64
- updates in downstream theories: refine+crefine this time

Reminder: DO NOT MERGE squashed version if it still says `aarch64 refine: arch-split` or `AARCH64`

Stats: 70 files changed, 4782 insertions(+), 26148 deletions(-)
Total: 21366 lines removed

### CODE REVIEW

File: proof/refine/AARCH64/ArchStateRelationLemmas.thy [hunk 1]
```diff
@@ -138,6 +138,36 @@ lemma ghost_relation_typ_at:
   apply (clarsimp simp: ghost_relation_def typ_at_eq_kheap_obj data_at_def)
   by (intro conjI impI iffI allI; force)
 
+(* interface lemma, but can't be interfaced in locale due to free type variable (return type of f) *)
+lemma ghost_relation_wrapper_lift:
+  assumes aos: "\<And>P. f \<lbrace>\<lambda>s. P (aobjs_of s) \<rbrace>"
+  assumes cns: "\<And>P. f \<lbrace>\<lambda>s. P (cns_of_heap (kheap s))\<rbrace>"
+  shows "f \<lbrace>\<lambda>s. P (ghost_relation_wrapper s s')\<rbrace>"
```
Comment (lsf37) [inline proof/refine/AARCH64/ArchStateRelationLemmas.thy:145]: Nice! We should have done that from the start. Like so many things.

File: proof/refine/AARCH64/ArchStateRelationLemmas.thy [hunk 2]
```diff
@@ -138,6 +138,36 @@ lemma ghost_relation_typ_at:
...
+  apply (simp add: ghost_relation_def)
+  apply (rule hoare_lift_Pf2[OF _ ksa])
+  apply (rule hoare_lift_Pf2[OF _ gsc])
+  apply (rule hoare_lift_Pf2[OF _ gsp])
+  apply wp
+  done
+
+lemma ghost_relation_wrapper_genD[StateRelation_R_assms]: (* FIXME arch-split: interface *)
+  "ghost_relation_wrapper s s'
+   \<Longrightarrow> ups_of_heap (kheap s) = gsUserPages s' \<and> cns_of_heap (kheap s) = gsCNodes s'"
```
Comment (lsf37) [inline proof/refine/AARCH64/ArchStateRelationLemmas.thy]: Could this one be a locale interface lemma?

File: proof/refine/Move_R.thy [hunk 3]
```diff
@@ -262,4 +262,9 @@ lemma check_active_irq_invs_just_idle:
         and (\<lambda>s. 0 < domain_time s) and valid_domain_list \<rbrace>"
   by (wpsimp simp: check_active_irq_def ct_in_state_def)
 
+lemma cns_of_heap_Some:
+  "(cns_of_heap (kheap s) a = Some n)
+   = (\<exists>cs. kheap s a = Some (CNode n cs) \<and> well_formed_cnode_n n cs)"
```
Comment (lsf37) [inline proof/refine/Move_R.thy]: Not sure it's worth it, but the `kheap` constant could be generalised, i.e. 

```
  "(cns_of_heap kh a = Some n) 
   = (∃cs. kh a = Some (CNode n cs) ∧ well_formed_cnode_n n cs)"
```

File: proof/refine/AARCH64/ArchStateRelationLemmas.thy (hunk 2 above)
Comment (lsf37) [reply proof/refine/AARCH64/ArchStateRelationLemmas.thy]: Have just seen that it *is* a locale interface lemma. In that case, should we remove the FIXME?

File: proof/refine/CSpace_R.thy [hunk 4]
```diff
@@ -3682,6 +3688,240 @@ locale mdb_insert_simple'_gen_Arch_assms =
...
+             "\<And>P. \<lbrace>\<lambda>s. P (new_dsi' s)\<rbrace> g \<lbrace>\<lambda>rv s. P (ksDomScheduleIdx s)\<rbrace>"
+             "\<And>P. \<lbrace>\<lambda>s. P (new_dss' s)\<rbrace> g \<lbrace>\<lambda>rv s. P (ksDomScheduleStart s)\<rbrace>"
+             "\<And>P. \<lbrace>\<lambda>s. P (new_ds' s)\<rbrace> g \<lbrace>\<lambda>rv s. P (ksDomSchedule s)\<rbrace>"
+             "\<And>P. \<lbrace>\<lambda>s. P (new_cd' s)\<rbrace> g \<lbrace>\<lambda>rv s. P (ksCurDomain s)\<rbrace>"
+             "\<And>P. \<lbrace>\<lambda>s. P (new_dt' s)\<rbrace> g \<lbrace>\<lambda>rv s. P (ksDomainTime s)\<rbrace>"
+             "\<And>P. \<lbrace>\<lambda>s. P (new_ao' s)\<rbrace> g \<lbrace>\<lambda>rv s. P (aobjs_of' s)\<rbrace>"
+             "\<And>P s'. \<lbrace>\<lambda>s. P (ghost_relation_wrapper (new_gs s) s')\<rbrace> f \<lbrace>\<lambda>rv s. P (ghost_relation_wrapper s s')\<rbrace>"
+             "\<And>P s. \<lbrace>\<lambda>s'. P (ghost_relation_wrapper s (new_gs' s'))\<rbrace> g \<lbrace>\<lambda>rv s'. P (ghost_relation_wrapper s s')\<rbrace>"
```
Comment (lsf37) [inline proof/refine/CSpace_R.thy:3732]: In these two, is `new_gs` not just `new_s`? Which is fine, it works, I was just temporarily confused about what it actually is.

If it is `new_s` and `new_s'` we might not need the `ghost_relation_wrapper` part here, although it is probably nicer to leave it in, because it makes it nicer to use inside this lemma and doesn't really change much in the outside application of this lemma. Just trying to understand what it is doing, no need for change.

Comment (lsf37) [reply proof/refine/CSpace_R.thy:3732]: Ah, I see the crunch below now. For that to come out as nicely as it does, we definitely do need the `ghost_relation_wrapper` in the `assumes` here. Got it now.

Comment (lsf37) [reply proof/refine/CSpace_R.thy:3732]: That turned out pretty cool!

File: proof/refine/AARCH64/ArchUntyped_R.thy [hunk 5]
```diff
@@ -1,5739 +1,439 @@
...
-    apply (clarsimp simp: valid_cap'_def obj_at'_def capAligned_def objBits_simps')
-    apply (frule_tac ptr=ptr and sz=cte_level_bits
-             in nasty_range [where 'a=machine_word_len, folded word_bits_def])
-       apply (simp add: cte_level_bits_def)+
-    apply clarsimp
-    apply (drule_tac x=idx in spec)
-    apply (clarsimp simp: less_mask_eq)
-    apply (fastforce simp: obj_range'_def objBits_simps' mask_def field_simps)
+lemma APIType_map2_arch_data_to_obj_type[Untyped_R_assms]:
+  defines "object_types \<equiv> enum :: object_type list"
```
Comment (lsf37) [inline proof/refine/AARCH64/ArchUntyped_R.thy]: I think you can write `defines [simp]: "..."` if you want to save the `unfolding` line below. Up to you.

File: proof/refine/AARCH64/ArchUntyped_R.thy [hunk 6]
```diff
@@ -1,5739 +1,439 @@
...
+  supply if_split[split del]
+  apply (simp add: arch_data_to_obj_type_def APIType_map2_def enum_apiobject_type_length
+                   enum_object_type)
+  apply (subst nth_drop_sub[symmetric], (simp add: enum_apiobject_type_length)+)
+  apply (clarsimp split: if_split)
+  apply arith
+  done
+
+lemma obj_bits_api_APIType_map2[Untyped_R_assms]:
+  "(obj_bits_api (APIType_map2 (Inr x)) y) = (getObjectSize x y)"
```
Comment (lsf37) [inline proof/refine/AARCH64/ArchUntyped_R.thy]: This is old, I presume, but if you're up for cosmetics, I'd remove the outer parentheses on each side.

File: proof/refine/Untyped_R.thy [hunk 7]
```diff
@@ -2824,10 +2333,802 @@ lemma insertNewCap_overlap_reserved'[wp]:
...
+
+lemma desc_range:
+  "reset \<longrightarrow> descendants_range_in' (mask_range ptr sz) (cref) (ctes_of s)"
+  using vui by (clarsimp simp: empty_descendants_range_in')
+
+abbreviation(input)
+  "retype_range \<equiv> {ptr..ptr + of_nat (length slots) * 2 ^ APIType_capBits tp us - 1}"
+
+abbreviation(input)
+  "usable_range \<equiv> {ptr..(ptr && ~~ mask sz) + mask sz}"
```
Comment (lsf37) [inline proof/refine/Untyped_R.thy:2735]: Not that we should do this now (and maybe I actually wrote this originally), but I have the feeling this would have been much easier if we had written this as `usable_range ≡ {ptr .. ptr || mask sz}`. Might be worth a "FIXME: consider ..".

File: proof/refine/Untyped_R.thy [hunk 8]
```diff
@@ -2824,10 +2333,802 @@ lemma insertNewCap_overlap_reserved'[wp]:
...
+     invokeUntyped_proofs s cref reset ptr_base ptr tp us slots sz idx dev \<Longrightarrow>
+     descendants_range_in' {ptr..(ptr && ~~ mask sz) + mask sz} cref (ctes_of s)"
+    "\<And>s cref reset ptr_base ptr tp us slots sz idx dev.
+     invokeUntyped_proofs s cref reset ptr_base ptr tp us slots sz idx dev \<Longrightarrow>
+     descendants_range_in' {ptr..ptr + word_of_nat (length slots) * 2 ^ APIType_capBits tp us - 1}
+       cref (ctes_of s)"
+  assumes invokeUntyped_proofs_ex_cte_no_overlap':
+    "\<And>s cref reset ptr_base ptr tp us slots sz idx dev p P.
+     \<lbrakk>invokeUntyped_proofs s cref reset ptr_base ptr tp us slots sz idx dev; ex_cte_cap_wp_to' P p s\<rbrakk>
+     \<Longrightarrow> p \<notin> {ptr..(ptr && ~~ mask sz) + mask sz}"
```
Comment (lsf37) [inline proof/refine/Untyped_R.thy:3090]: Should these use the `usable_range` input abbreviation for the `{ptr..(ptr && ~~ mask sz) + mask sz}` term? Easier to read, and I think it should be available in the Arch theory as well if we have declared it here.

Comment (lsf37) [reply proof/refine/Untyped_R.thy:3090]: (two more below)

File: proof/refine/Untyped_R.thy [hunk 9]
```diff
@@ -4756,24 +4654,25 @@ lemma inv_untyped_corres':
...
+      apply (prop_tac "is_aligned (ptr && ~~ mask sz) sz")
+       apply (fastforce intro!: is_aligned_neg_mask)
+      apply (simp add: delete_objects_def)
+      apply (subst dmo_freeMemory_clear_um;
+             clarsimp simp: range_cover_def[where 'a=machine_word_len, folded word_bits_def])
       done
 
-    have of_nat_length: "(of_nat (length slots)::machine_word) - (1::machine_word) < (of_nat (length slots)::machine_word)"
+    have of_nat_length:
+       "(of_nat (length slots)::machine_word) - (1::machine_word) < (of_nat (length slots)::machine_word)"
```
Comment (lsf37) [inline proof/refine/Untyped_R.thy]: cosmetics: only one of the `machine_word` constraints is need (any one should do, the rest is then constrained by the operators)

**Review by lsf37 — APPROVED** [review]
Very impressive. I've been surprised a few times before now, but I still didn't think we'd get Untyped_R this generic.

And thank you for the substantial cleanup of old cruft and comments in here. Definitely an improvement.

File: proof/refine/ARM/ArchStateRelationLemmas.thy [hunk 10]
```diff
@@ -144,6 +144,43 @@ lemma ghost_relation_typ_at:
    apply (intro conjI impI iffI allI; force)
    done
 
+(* FIXME arch-split: missing from ArchInvariants_AI on this architecture *)
+lemma aobjs_of_Some:
+  "(aobjs_of s p = Some ao) = (kheap s p = Some (ArchObj ao))"
```
Comment (corlewis) [inline proof/refine/ARM/ArchStateRelationLemmas.thy:149]: Should this go in `ArchMove_R` with `set_cap_aobjs_of`? If so, same on ARM_HYP and X64.

File: proof/refine/CSpace1_R.thy [hunk 11]
```diff
@@ -241,6 +241,14 @@ locale CSpace1_R =
       no_loops m\<rbrakk>
      \<Longrightarrow> (c \<noteq> slot \<or> P \<longrightarrow> descendants_of' c m \<subseteq> descendants_of' c (m(slot \<mapsto> cteCap_update (\<lambda>_. cap) cte))) \<and>
        (P \<longrightarrow> descendants_of' c (m(slot \<mapsto> cteCap_update (\<lambda>_. cap) cte)) \<subseteq> descendants_of' c m)"
+  (* FIXME arch-split: see if we could've this more instead of isMDBParentOf_CTE *)
```
Comment (corlewis) [inline proof/refine/CSpace1_R.thy]: This comment confused me a bit, do you mean "see if we could use this more ..."?

File: proof/refine/Retype_R.thy [hunk 12]
```diff
@@ -562,6 +562,16 @@ locale Retype_R =
...
+  assumes createNewCaps_valid_cap:
+    "\<And>ty ptr sz us dev.
+     \<lbrakk>range_cover ptr sz (APIType_capBits ty us) n; n \<noteq> 0;
+      ty = APIObjectType ArchTypes_H.apiobject_type.CapTableObject \<Longrightarrow> 0 < us;
+      ty = APIObjectType ArchTypes_H.apiobject_type.Untyped \<Longrightarrow>
+      minUntypedSizeBits \<le> us \<and> us \<le> maxUntypedSizeBits;
+      ptr \<noteq> 0; canonical_address (ptr && ~~ mask sz); ptr && ~~ mask sz \<in> kernel_mappings;
+      sz \<le> maxUntypedSizeBits\<rbrakk>
+     \<Longrightarrow> \<lbrace>\<lambda>s. pspace_no_overlap' ptr sz s \<and> valid_pspace' s\<rbrace> createNewCaps ty ptr n us dev
+       \<lbrace>\<lambda>r s. \<forall>cap\<in>set r. valid_cap' cap s\<rbrace>"
```
Comment (corlewis) [inline proof/refine/Retype_R.thy]: Style

File: proof/refine/AARCH64/ArchUntyped_R.thy [hunk 13]
```diff
@@ -5,10 +5,10 @@
  * SPDX-License-Identifier: GPL-2.0-only
  *)
 
-(* Proofs about untyped invocations. *)
+(* Archirecture-specific proofs about untyped invocations. *)
```
Comment (corlewis) [inline proof/refine/AARCH64/ArchUntyped_R.thy]: Architecture

File: proof/refine/Untyped_R.thy [hunk 14]
```diff
@@ -104,44 +132,255 @@ lemma corres_check_no_children:
   apply simp
   done
 
+(* FIXME: MOVE *)
 lemma mapM_x_stateAssert:
```
Comment (corlewis) [inline proof/refine/Untyped_R.thy]: Extremely minor: move normally isn't capitalised

File: proof/refine/Untyped_R.thy [hunk 15]
```diff
@@ -104,44 +132,255 @@ lemma corres_check_no_children:
...
+     \<Longrightarrow> ((enum :: object_type list) ! n) = APIObjectType ((enum :: apiobject_type list) ! n)"
+  assumes APIType_map2_CapTable[simp]:
+    "\<And>ty. (APIType_map2 ty = Structures_A.CapTableObject)
+          = (ty = Inr (APIObjectType ArchTypes_H.CapTableObject))"
+  assumes updateFreeIndex_valid_irq_states'[wp]:
+    "\<And>slot idx. updateFreeIndex slot idx \<lbrace>valid_irq_states'\<rbrace>"
+  assumes deleteGhost_valid_irq_states'[wp]:
+    "\<And>ptr bits. Arch.deleteGhost ptr bits \<lbrace>valid_irq_states'\<rbrace>"
+  assumes freeMemory_irq_masks_inv[wp]:
+    "\<And>ptr bits P. freeMemory ptr bits \<lbrace>\<lambda>s. P (irq_masks s)\<rbrace>"
```
Comment (corlewis) [inline proof/refine/Untyped_R.thy:270]: Extremely minor: feels a bit strange to have this `freeMemory` interface lemma in the middle of all the `deleteGhost` lemmas.

File: proof/refine/Untyped_R.thy [hunk 16]
```diff
@@ -1668,49 +1542,38 @@ where
...
   apply (rule sameRegionAs_trans[rotated], assumption)
   apply (drule(3) mdb_chunked2_revD)
    apply simp
    apply (erule(1) sameRegionAs_trans)
   apply simp
   done
 
-end
+lemma descendants_of'_D: "p' \<in> descendants_of' p ctes \<Longrightarrow> ctes \<turnstile> p \<rightarrow> p' "
+  by (clarsimp simp:descendants_of'_def)
```
Comment (corlewis) [inline proof/refine/Untyped_R.thy]: Old style

File: proof/refine/Untyped_R.thy [hunk 17]
```diff
@@ -2824,10 +2333,802 @@ lemma insertNewCap_overlap_reserved'[wp]:
...
+   apply clarsimp
+   apply (drule (1) trancl_trans, erule loopE)
+  apply (rule conjI, clarsimp)
+  apply clarsimp
+  apply (drule (1) trancl_trans, erule loopE)
+  done
+
+(* FIXME arch-split: needed by insertNewCap_valid_mdb in CSpace_R, interface *)
+lemma valid_n':
+  "untypedRange c' \<inter> usableUntypedRange parent_cap = {} \<Longrightarrow> valid_mdb_ctes n'"
```
Comment (corlewis) [inline proof/refine/Untyped_R.thy]: It's not clear to me what this comment is saying, this is well after CSpace_R and doesn't seem to be an interface lemma since it's in a generic file.

File: proof/refine/Untyped_R.thy [hunk 18]
```diff
@@ -2824,10 +2333,802 @@ lemma insertNewCap_overlap_reserved'[wp]:
...
+  fixes s cref reset ptr_base ptr tp us slots sz idx dev
+  assumes vui:
+    "valid_untyped_inv_wcap'
+      (Invocations_H.Retype cref reset ptr_base ptr tp us slots dev)
+          (Some (UntypedCap dev (ptr && ~~ mask sz) sz idx)) s"
+  assumes misc: "ct_active' s" "invs' s"
+begin
+
+lemma cte_wp_at': "cte_wp_at' (\<lambda>cte. cteCap cte = capability.UntypedCap
+      dev (ptr && ~~ mask sz) sz idx) cref s"
```
Comment (corlewis) [inline proof/refine/Untyped_R.thy]: Old style

File: proof/refine/AARCH64/ArchUntyped_R.thy [hunk 19]
```diff
@@ -1,5739 +1,439 @@
...
+  "isDeviceCap (UntypedCap d _ _ _) = d"
+| "isDeviceCap (ArchObjectCap (FrameCap _ _ _ d _)) = d"
+| "isDeviceCap _ = False"
 
-lemma liftE_validE_R:
-  "\<lbrace>P\<rbrace> f \<lbrace>Q\<rbrace> \<Longrightarrow> \<lbrace>P\<rbrace> liftE f \<lbrace>Q\<rbrace>,-"
-  by wpsimp
+lemmas makeObjectKO_simp = makeObjectKO_def[split_simps AARCH64_H.object_type.split
+  Structures_H.kernel_object.split ArchTypes_H.apiobject_type.split
+  sum.split arch_kernel_object.split]
```
Comment (corlewis) [inline proof/refine/AARCH64/ArchUntyped_R.thy]: Indentation

File: proof/refine/AARCH64/ArchUntyped_R.thy [hunk 20]
```diff
@@ -1,5739 +1,439 @@
...
+  "resetChunkBits < word_bits"
+  by (simp add: Kernel_Config.resetChunkBits_def word_bits_def)
 
-lemma site_no_child [iff]:
-  "m \<turnstile> x \<rightarrow> site = False" using site site_prev
-  by (auto dest: subtree_prev_0)
+lemma APIType_capBits_lower_bound[Untyped_R_assms]:
+  "\<lbrakk>tp = APIObjectType ArchTypes_H.apiobject_type.Untyped \<longrightarrow> minUntypedSizeBits \<le> us\<rbrakk>
+   \<Longrightarrow> minUntypedSizeBits \<le> APIType_capBits tp us"
+  supply vcpuBits_def[bit_simps del] (* work around warning *)
```
Comment (corlewis) [inline proof/refine/AARCH64/ArchUntyped_R.thy]: A similar line earlier was marked `FIXME arch-split:`

File: proof/refine/AARCH64/ArchUntyped_R.thy (hunk 13 above)
Comment (corlewis) [reply proof/refine/AARCH64/ArchUntyped_R.thy]: Looks like this is fixed in the next commits, so should be ok when all squashed.

File: proof/refine/ARM/ArchUntyped_R.thy [hunk 21]
```diff
@@ -108,63 +108,64 @@ lemma ctes_of_ko_arch[Untyped_R_assms]:
...
-        \<comment> \<open>ASID control\<close>
-        apply clarsimp
-       \<comment> \<open>ASIDPool\<close>
-       apply (clarsimp simp: valid_cap'_def valid_arch_cap_ref'_def typ_at'_def ko_wp_at'_def)
+       \<comment> \<open>ASID case\<close>
+       apply (clarsimp simp: valid_cap'_def  typ_at'_def ko_wp_at'_def)
        apply (intro exI conjI, assumption)
        apply (clarsimp simp: obj_range'_def archObjSize_def objBitsKO_def)
-       apply (case_tac ko; simp)
+       apply (case_tac ko, simp+)[1]
```
Comment (corlewis) [inline proof/refine/ARM/ArchUntyped_R.thy]: For improved consistency, would be nice to change the other architectures to use `;` here like AARCH64

**Review by corlewis — APPROVED** [review]
Like Gerwin said, very impressive once again how much you managed to make generic!

File: proof/refine/AARCH64/ArchStateRelationLemmas.thy (hunk 2 above)
Comment (Xaphiosis) [reply proof/refine/AARCH64/ArchStateRelationLemmas.thy]: copy-paste error, will fix, thanks

File: proof/refine/AARCH64/ArchStateRelationLemmas.thy (hunk 1 above)
Comment (Xaphiosis) [reply proof/refine/AARCH64/ArchStateRelationLemmas.thy:145]: it's always worrying me, tech I discovered or invented later that I didn't deploy earlier, but can now no longer remember the things it could've applied to due to the large volumes of proofs rolling through

File: proof/refine/Move_R.thy (hunk 3 above)
Comment (Xaphiosis) [reply proof/refine/Move_R.thy]: good idea, will do

File: proof/refine/CSpace_R.thy (hunk 4 above)
Comment (Xaphiosis) [reply proof/refine/CSpace_R.thy:3732]: This lemma is confusion central. Took a long time, but this change was the least explosive I was able to find, and I'm glad you agree :)

File: proof/refine/CSpace1_R.thy (hunk 11 above)
Comment (Xaphiosis) [reply proof/refine/CSpace1_R.thy]: well, this is a new thing I came up with, and have a nagging feeling we could've used it more instead of `isMDBParentOf_CTE` (not guaranteed), but yeah the concept of the past once it's committed to the repository is a bit unclear. I'll change it to your version

File: proof/refine/Retype_R.thy (hunk 12 above)
Comment (Xaphiosis) [reply proof/refine/Retype_R.thy]: thanks, missed that

File: proof/refine/ARM/ArchStateRelationLemmas.thy (hunk 10 above)
Comment (Xaphiosis) [reply proof/refine/ARM/ArchStateRelationLemmas.thy:149]: Not sure. we have so many of these now, I want to do a "move to [Arch]Move_R" pass at the end to consolidate all this mess, and then we can have a discussion on what to do about them?

File: proof/refine/AARCH64/ArchUntyped_R.thy (hunk 5 above)
Comment (Xaphiosis) [reply proof/refine/AARCH64/ArchUntyped_R.thy]: that's really cool that one can do that, thanks, will do

File: proof/refine/AARCH64/ArchUntyped_R.thy (hunk 6 above)
Comment (Xaphiosis) [reply proof/refine/AARCH64/ArchUntyped_R.thy]: old yes, but will do

File: proof/refine/Untyped_R.thy (hunk 7 above)
Comment (Xaphiosis) [reply proof/refine/Untyped_R.thy:2735]: I'll add the FIXME; I definitely had to do some selective folding/unfolding related to this term and don't want to do it again right now, but in general it would be good to not have the term show up in the first place. I think some kind of future reckoning "fold the mask" pass would be interesting. `2 ^ n - 1` and `x + 2 ^ n - 1` and friends are sometimes rage-inducing.

File: proof/refine/Untyped_R.thy (hunk 8 above)
Comment (Xaphiosis) [reply proof/refine/Untyped_R.thy:3090]: Well, that can't work as it is. `usable_range` is an abbreviation inside the `invokeUntyped_proofs` locale which talks about locale-local parameters. So at where I'm defining this locale (`Untyped_R`), `usable_range` is free.

One thing we could do is make `usable_range` take parameters and then declare it outside of `invokeUntyped_proofs`. Another thing is to declare a second (global)  `usable_range` that does take parameters and use that (confusing?). What do you think? Might be worth putting in a FIXME for now, but still good to think about it because it shows up a few times.

File: proof/refine/Untyped_R.thy (hunk 9 above)
Comment (Xaphiosis) [reply proof/refine/Untyped_R.thy]: Like a bad DnD meme: "I cast machine_word!"
Don't think this one was mine, but I'll trim it to the one on the `1`

File: proof/refine/Untyped_R.thy (hunk 14 above)
Comment (Xaphiosis) [reply proof/refine/Untyped_R.thy]: I think I copied those innovations, will change

File: proof/refine/Untyped_R.thy (hunk 15 above)
Comment (Xaphiosis) [reply proof/refine/Untyped_R.thy:270]: will move it one up

File: proof/refine/Untyped_R.thy (hunk 16 above)
Comment (Xaphiosis) [reply proof/refine/Untyped_R.thy]: very old. look at that vintage space right before the `"` also. will tweak

File: proof/refine/Untyped_R.thy (hunk 17 above)
Comment (Xaphiosis) [reply proof/refine/Untyped_R.thy]: I think I hallucinated some clever way of not having to have to define `Arch_mdb_insert_again_all` (takes 4.3s) by moving something to CSpace_R, but looking at it now that seems unlikely, since the lemmas `valid_badges_n'` both unfolds `valid_arch_badges_def` *and* uses lemmas from `mdb_insert_again_all` in Untyped_R. Will drop the FIXME.

File: proof/refine/Untyped_R.thy (hunk 18 above)
Comment (Xaphiosis) [reply proof/refine/Untyped_R.thy]: This is ancient. I'm not sure how to restyle it with the `and`s and the names. Does this look sane?
```
lemma cte_wp_at':
  "cte_wp_at' (λcte. cteCap cte = capability.UntypedCap dev (ptr && ~~ mask sz) sz idx) cref s" and
  cover: "range_cover ptr sz (APIType_capBits tp us) (length (slots::machine_word list))" and
  misc2: "distinct slots"
         "slots ≠ []"
         "∀slot∈set slots. cte_wp_at' (λc. cteCap c = capability.NullCap) slot s"
         "∀x∈set slots. ex_cte_cap_wp_to' ⊤ x s"
```

Comment (Xaphiosis) [reply proof/refine/Untyped_R.thy]: @lsf37 uh also help, this one is very exotic and definitely not covered by the style guide

File: proof/refine/AARCH64/ArchUntyped_R.thy (hunk 19 above)
Comment (Xaphiosis) [reply proof/refine/AARCH64/ArchUntyped_R.thy]: Hmm. `makeObjectKO_simp` appears completely unused. I'll see if I can remove it

File: proof/refine/AARCH64/ArchUntyped_R.thy (hunk 20 above)
Comment (Xaphiosis) [reply proof/refine/AARCH64/ArchUntyped_R.thy]: I'll make it a FIXME arch-split

File: proof/refine/ARM/ArchUntyped_R.thy (hunk 21 above)
Comment (Xaphiosis) [reply proof/refine/ARM/ArchUntyped_R.thy]: will do, hopefully I'll catch them all

File: proof/refine/ARM/ArchStateRelationLemmas.thy (hunk 10 above)
Comment (corlewis) [reply proof/refine/ARM/ArchStateRelationLemmas.thy:149]: Makes sense. I think I only suggested moving this one now because this commit already added a different one to `ArchMove_R`.

File: proof/refine/Untyped_R.thy (hunk 18 above)
Comment (corlewis) [reply proof/refine/Untyped_R.thy]: Huh, yeah, this is an unusual one. I think that in this case it doesn't make sense to sense to have a name at all in the `lemma` line, and that the `cte_wp_at':` should be with its lemma statement like the others.

Comment (Xaphiosis) [reply proof/refine/Untyped_R.thy]: Right, I think I'm experiencing some sort of shutdown response from working on this. Those names aren't used at all! So we can do this, as you probably suggested:
```
lemma cte_wp_at':
  "cte_wp_at' (λcte. cteCap cte = capability.UntypedCap dev (ptr && ~~ mask sz) sz idx) cref s"
  "range_cover ptr sz (APIType_capBits tp us) (length (slots::machine_word list))"
  "distinct slots"
  "slots ≠ []"
  "∀slot∈set slots. cte_wp_at' (λc. cteCap c = capability.NullCap) slot s"
  "∀x∈set slots. ex_cte_cap_wp_to' ⊤ x s"
```

Comment (lsf37) [reply proof/refine/Untyped_R.thy]: yes, this is nice

Comment (Xaphiosis) [reply proof/refine/Untyped_R.thy]: I have some bad news. They are used. Apparently you can group lemmas in this unexpected way, because a bit later in the locale we have:
```
lemma subset_stuff[simp]:
  "retype_range ⊆ usable_range"
  apply (rule range_cover_subset''[OF cover])
  apply (simp add:misc2)
```
which refers to the `cover` and `misc2` named above.

So what style now?

Comment (Xaphiosis) [reply proof/refine/Untyped_R.thy]: One possible suggestion is to unwind the whole thing:
```
lemma cte_wp_at':
  "cte_wp_at' (λcte. cteCap cte = capability.UntypedCap dev (ptr && ~~ mask sz) sz idx) cref s"
  using vui
  by (auto simp: cte_wp_at_ctes_of)

lemma cover:
  "range_cover ptr sz (APIType_capBits tp us) (length (slots::machine_word list))"
  using vui
  by (auto simp: cte_wp_at_ctes_of)

lemma misc2:
  "distinct slots"
  "slots ≠ []"
  "∀slot∈set slots. cte_wp_at' (λc. cteCap c = capability.NullCap) slot s"
  "∀x∈set slots. ex_cte_cap_wp_to' ⊤ x s"
  using vui
  by (auto simp: cte_wp_at_ctes_of)
  ```

Comment (Xaphiosis) [reply proof/refine/Untyped_R.thy]: @corlewis were you thinking of something like this?
```
lemma
  cte_wp_at':
    "cte_wp_at' (λcte. cteCap cte = capability.UntypedCap dev (ptr && ~~ mask sz) sz idx) cref s" and
  cover:
    "range_cover ptr sz (APIType_capBits tp us) (length (slots::machine_word list))" and
  misc2:
    "distinct slots"
    "slots ≠ []"
    "∀slot∈set slots. cte_wp_at' (λc. cteCap c = capability.NullCap) slot s"
    "∀x∈set slots. ex_cte_cap_wp_to' ⊤ x s"
```

Comment (corlewis) [reply proof/refine/Untyped_R.thy]: Oh, I was more suggesting something like
```
lemma
  cte_wp_at': "cte_wp_at' (λcte. cteCap cte = capability.UntypedCap dev (ptr && ~~ mask sz) sz idx) cref s" and
  cover: "range_cover ptr sz (APIType_capBits tp us) (length (slots::machine_word list))" and
  misc2: "distinct slots"
         "slots ≠ []"
         "∀slot∈set slots. cte_wp_at' (λc. cteCap c = capability.NullCap) slot s"
         "∀x∈set slots. ex_cte_cap_wp_to' ⊤ x s"
```
That's the only thing that makes sense to me if we're doing all of them together. Otherwise splitting them up like in your last suggestion would work as well.

Comment (corlewis) [reply proof/refine/Untyped_R.thy]: > @corlewis were you thinking of something like this?
> 
> ```
> lemma
>   cte_wp_at':
>     "cte_wp_at' (λcte. cteCap cte = capability.UntypedCap dev (ptr && ~~ mask sz) sz idx) cref s" and
>   cover:
>     "range_cover ptr sz (APIType_capBits tp us) (length (slots::machine_word list))" and
>   misc2:
>     "distinct slots"
>     "slots ≠ []"
>     "∀slot∈set slots. cte_wp_at' (λc. cteCap c = capability.NullCap) slot s"
>     "∀x∈set slots. ex_cte_cap_wp_to' ⊤ x s"
> ```

Whoops, made my comment at the same time. Yes, that.

Comment (lsf37) [reply proof/refine/Untyped_R.thy]: Given that the proof is a one-liner, unwinding also looks very tempting. But this latter style would be fine with me.

File: proof/refine/Untyped_R.thy (hunk 8 above)
Comment (lsf37) [reply proof/refine/Untyped_R.thy:3090]: Right, I hadn't seen that it was inside the locale (obvious in hindsight by missing parameters). The comment further up about the locale variables is sufficient I think. Happy to leave it as is.

**Review by lsf37 — APPROVED** [review]
Happy with the changes and fixups.

**Comment by Xaphiosis** [comment]
Rebased and squashed. Will merge when tests pass.
